US04547514
3-(3,4-Dichlorophenoxy)-N-[2-(dimethylamino)ethyl]-1-pyrrolidine Carboxamide Hydrochloride
A stirred solution of 17.7 g (0.06 mole) of 3-(3,4-dichlorophenoxy)-1-pyrrolidinecarboxamide in 170 ml of tetrahydrofuran was treated by the rapid addition of 10.6 g (0.12 mole) of N,N-dimethylethylenediamine. The reaction was slightly exothermic and the mixture was stirred at ambient temperature over the weekend. Filtration removed some precipitated diamine hydrochloride, and the filtrate was concentrated in vacuo to give an oil, 23 g. The oil was treated with ethereal hydrogen chloride to give a granular solid which was recrystallized twice from acetone to give 4.6 g of pale green product, m.p. 143°-145° C.

reactant | 3-(3,4-dichlorophenoxy)-1-pyrrolidinecarboxamide | 0.06 mole, 17.7 g | ClC=1C=C(OC2CN(CC2)C(=O)N)C=CC1Cl | C11H12Cl2N2O2
reactant | N,N-dimethylethylenediamine | 0.12 mole, 10.6 g | CN(CCN)C | C4H12N2
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
product | 3-(3,4-Dichlorophenoxy)-N-[2-(dimethylamino)ethyl]-1-pyrrolidine Carboxamide Hydrochloride | 4.6 g | Cl.ClC=1C=C(OC2CN(CC2)C(=O)NCCN(C)C)C=CC1Cl | InChI=1S/C15H21Cl2N3O2.ClH/c1-19(2)8-6-18-15(21)20-7-5-12(10-20)22-11-3-4-13(16)14(17)9-11;/h3-4,9,12H,5-8,10H2,1-2H3,(H,18,21);1H
